US09302989B2
methyl 5-(isoindoline-2-carboxamido)picolinate
The title compound was prepared as described in Example 272B, substituting methyl 5-aminopicolinate for 4-amino-N-propylbenzamide and isoindoline for methyl isoindoline-5-carboxylate hydrochloride.

reactant | 4-amino-N-propylbenzamide | NC1=CC=C(C(=O)NCCC)C=C1 | C10H14N2O
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
reactant | methyl isoindoline-5-carboxylate hydrochloride | Cl.C1NCC2=CC(=CC=C12)C(=O)OC
product | methyl 5-(isoindoline-2-carboxamido)picolinate | C1N(CC2=CC=CC=C12)C(=O)NC=1C=CC(=NC1)C(=O)OC | C16H15N3O3
